US05207947
Synthesis of 1,1,1-trifluoro-2-decyl 4-(4'-decylbiphenyl-4-oxycarbonyl)-2,3,5,6-tetrafluorobenzoate
To methylene chloride (20 ml) were added 2,3,5,6-tetrafluoroterephthalic acid chloride (0.27 g), (R)-(+)-1,1,1-trifluoro-2-decanol (0.1 g), triethylamine (0.05 g) and dimethylaminopyridine (0.02 g). After the mixture was left to stand for 8 hours in order to allow a reaction to proceed, 4-decyl-4'-hydroxybiphenyl (0.15 g) and triethylamine (0.05 g) were added thereto. The mixture was left for about 8 hours in order to allow a reaction to proceed, made acidic with 1N aqueous hydrochloric acid solution and extracted with methylene chloride. The extracted layer was washed with lN aqueous sodium carbonate solution, water, aqueous sodium chloride solution (saturated) and water, in this order, to make it neutral. The layer was dried over anhydrous magnesium sulfate and distilled under reduced pressure in order to remove the solvent. The solid product obtained was purified by silica-gel column chromatography to obtain the titled compound (0.14 g).

reactant | 2,3,5,6-tetrafluoroterephthalic acid chloride | 0.27 g | FC1=C(C(=O)Cl)C(=C(C(=C1F)C(=O)Cl)F)F | C8Cl2F4O2
reactant | (R)-(+)-1,1,1-trifluoro-2-decanol | 0.1 g | FC([C@@H](CCCCCCCC)O)(F)F | C10H19F3O
reactant | dimethylaminopyridine | 0.02 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 4-decyl-4'-hydroxybiphenyl | 0.15 g | C(CCCCCCCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C22H30O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | triethylamine | 0.05 g | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.05 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1,1,1-trifluoro-2-decyl 4-(4'-decylbiphenyl-4-oxycarbonyl)-2,3,5,6-tetrafluorobenzoate | 0.14 g | C(CCCCCCCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(=O)C1=C(C(=C(C(=O)OC(C(F)(F)F)CCCCCCCC)C(=C1F)F)F)F | C40H47F7O4
